US07371743B2
(a) methyl 3-methyl-4-(pent-4-en-1-oyl-amino)-benzoate
Prepared analogously to Example 46a from methyl 4-amino-3-methyl-benzoate and 4-pentene-1-acid-chloride in THF with TEA.

reactant | methyl 4-amino-3-methyl-benzoate | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3-methyl-4-(pent-4-en-1-oyl-amino)-benzoate | CC=1C=C(C(=O)OC)C=CC1NC(CCC=C)=O | C14H17NO3
